US06472396B1
a) Preparation of Diethyl 2-Bromo-2-phenylmalonate
To a solution of diethyl 2-phenylmalonate (15 ml) in 200 ml of tetrahydrofuran, kept at 0° C. and under nitrogen atmosphere, 3.475 g of sodium hydride are added and the mixture is kept 30 minutes under stirring at 0° C., then it is brought to room temperature. After cooling again to 0° C., the reaction mixture is added with 14.3 g of N-bromosuccinimide. After about 15 minutes, the white solid which separated is filtered off and the filtrate is concentrated to dryness to give a residue which is redissolved in chloroform and dried over sodium sulfate. The solvent is evaporated under reduced pressure to give 15.66 g of the product.

reactant | diethyl 2-phenylmalonate | 15 ml | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | sodium hydride | 3.475 g | [H-].[Na+]
reactant | N-bromosuccinimide | 14.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Diethyl 2-Bromo-2-phenylmalonate | 15.66 g | BrC(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C13H15BrO4
